US09260439B2
Step 4: Preparation of 5-{2-[(3S)-3-methylmorpholin-4-yl]-7-[(3S)-3-methylpyrrolidin-3-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine hydrochloride
To a flask containing tert-butyl(3S)-3-{4-(2-aminopyrimidin-5-yl)-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidine-1-carboxylate (3290 mg, 6.625 mmol) in 31 mL MeOH was added 4 N HCl in dioxane (33 mL, 132 mmol) dropwise at 0° C. and the mixture was stirred at room temperature for 2 h. The mixture was diluted with toluene and concentrated. Additional toluene was added and the solution was concentrated to give the title compound (3.73 g, >99%) as a yellow foam. 1H NMR (400 MHz, DMSO-d6) δ 9.62 (br s, 2 H), 8.69 (s, 2 H), 7.33-7.11 (m, 2H), 4.63-4.52 (m, 1 H), 4.20 (d, J=11.5 Hz, 1 H), 4.03-3.89 (m, 2 H), 3.83-3.18 (m, 10 H), 3.14-3.03 (m, 2 H), 2.71-2.55 (m, 1 H), 2.20-2.04 (m, 1 H), 1.48 (s, 3 H), 1.28 (d, J=6.7 Hz, 3 H). m/z (APCI+) for C20H28N8O 397.5 (M+H)+.

reactant | tert-butyl(3S)-3-{4-(2-aminopyrimidin-5-yl)-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidine-1-carboxylate | 6.625 mmol, 3290 mg | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)[C@@]2(CN(CC2)C(=O)OC(C)(C)C)C | C25H36N8O3
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 132 mmol, 33 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 31 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-{2-[(3S)-3-methylmorpholin-4-yl]-7-[(3S)-3-methylpyrrolidin-3-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine hydrochloride | 3.73 g, >99% | Cl.C[C@@H]1N(CCOC1)C=1N=C(C2=C(N1)N(CC2)[C@@]2(CNCC2)C)C=2C=NC(=NC2)N | InChI=1S/C20H28N8O.ClH/c1-13-11-29-8-7-27(13)19-25-16(14-9-23-18(21)24-10-14)15-3-6-28(17(15)26-19)20(2)4-5-22-12-20;/h9-10,13,22H,3-8,11-12H2,1-2H3,(H2,21,23,24);1H/t13-,20-;/m0./s1
